US06251947B1
Step E: Preparation of 5-chloro-6-methyl-2-pyridinamine 1-oxide, hydrochloride
To a solution of 110 g (666 mmol) of 5-chloro-6-methyl-pyridineamine (Kress, T. J.; Moore, L. L.; Costantino, S. M. J. Org. Chem. (1976) 41(1), pp 93-96) in 1 L of dichloromethane was added 164 g (666 mmol) of m-chloroperoxybenzoic acid. The mixture was stirred at room temperature overnight and 20 g more of m-chloroperoxybenzoic acid was added. The mixture was stirred 1 h and 50 mL of saturated aqueous NaHSO3 were added. The solvent was removed and the residue was taken up in 1L of 1N HCl. The insoluble solids were filtered and washed with 3N HCl. Solvent was removed from the aqueous filtrate to give a solid which was recrystallized from ethanol affording 56.9 g of 5-chloro-6-methyl-2-pyridinamine 1-oxide, hydrochloride as a white solid, mp>250° C.

reactant | 5-chloro-6-methyl-pyridineamine | 666 mmol, 110 g | ClC=1C=CC(=NC1C)N | C6H7ClN2
reactant | m-chloroperoxybenzoic acid | 666 mmol, 164 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaHSO3 | 50 mL | OS(=O)[O-].[Na+]
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 5-chloro-6-methyl-2-pyridinamine 1-oxide, hydrochloride | Cl.ClC1=CC=C([N+](=C1C)[O-])N | InChI=1S/C6H7ClN2O.ClH/c1-4-5(7)2-3-6(8)9(4)10;/h2-3H,8H2,1H3;1H
